US07138425B2
a) 2-(3-Amino-4-methoxyphenyl)-5-bromobenzoxazole
Prepared by the method of Example 1a), from 3-amino-4-methoxybenzoic acid (1.84 g, 11.0 mmol) and 2-amino-4-bromophenol (2.0 g, 11.0 mmol) the subtitle compound was obtained (2.0 g, 55%). 1H NMR (CDCl3) δ 7.85(t, 1H), 7.64(dd, 1H), 7.58(d, 1H), 7.41(d, 1H), 6.90(d, 1H), 3.95(s, 3H).

reactant | 3-amino-4-methoxybenzoic acid | 11.0 mmol, 1.84 g | NC=1C=C(C(=O)O)C=CC1OC | C8H9NO3
reactant | 2-amino-4-bromophenol | 11.0 mmol, 2.0 g | NC1=C(C=CC(=C1)Br)O | C6H6BrNO
product | 2-(3-Amino-4-methoxyphenyl)-5-bromobenzoxazole | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H11BrN2O2
